datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(CC)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])C)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C(O)=C([C:20]([H])=[O:21])/O>>[O-:21][C:20]1([H])[O+:10]([Na])C(CCC)C(O)=C1O 10=20;20,21=21"
"[O-:10]C(CC)C(O)C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O:10]C(CC)C(O)C1O 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CCCCCC)C>>CCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)C.[O-:21]C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)CCCCCC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"[O:10]([K])C([H])C([H])C([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O+:10]([K])C([H])C([H])C1[H] 10=20;20,21=21"
"[H][S:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C)[S]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C([H])C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])C([H])C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(CC)C(C)C([H])C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C([H])C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])[O:10]C([H])C(C)C1[H]>>[O-:10]C([H])C(C)C([C:20]([H])=[O:21])[H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[OH:10]C(CCC)C(C)C([C:20](OC)=[OH+:21])[H]>>[OH:21][C:20]1(OC)[OH+:10]C(CCC)C(C)C1[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CC)CC>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CC)[O-:10])CC 21=20;20,10=10"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CC)[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)[H].[O-:21][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CC)CC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CC)CC)[O-:10])CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)[H].[O-:21][H]>>CC1C(C(O[C:20](N1C)([O-:10])[O:21][H])CCCCCC)[H] 21=20;20,10=10"
"[H][S:10]C(CC)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)[O]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)[O][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
